* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.00488027961119658
Fd1_1 0 s1 V1 -0.244013980559829
Gr1_1_1 0 s1 x1_a1 0 20388183936.821762
Gr2_re_1_1 0 s1 x2_re_a1 0 2503534911.629692
Gr2_im_1_1 0 s1 x2_im_a1 0 820764441.4120165
Gr3_re_1_1 0 s1 x3_re_a1 0 43850036.74668733
Gr3_im_1_1 0 s1 x3_im_a1 0 -55374704.56874477
Gr4_re_1_1 0 s1 x4_re_a1 0 97912538.98948441
Gr4_im_1_1 0 s1 x4_im_a1 0 42253066.65807752
Gr5_re_1_1 0 s1 x5_re_a1 0 86510418.88806109
Gr5_im_1_1 0 s1 x5_im_a1 0 -21279227.656285536
Gd1_2 0 s1 p2 0 0.000109609829093373
Fd1_2 0 s1 V2 0.0054804914546686505
Gr1_1_2 0 s1 x1_a2 0 -722780877.7207558
Gr2_re_1_2 0 s1 x2_re_a2 0 -5617398.246981252
Gr2_im_1_2 0 s1 x2_im_a2 0 -20815155.16885879
Gr3_re_1_2 0 s1 x3_re_a2 0 -4564579.420547444
Gr3_im_1_2 0 s1 x3_im_a2 0 -17246868.248596042
Gr4_re_1_2 0 s1 x4_re_a2 0 16002475.052675232
Gr4_im_1_2 0 s1 x4_im_a2 0 -4188720.94236609
Gr5_re_1_2 0 s1 x5_re_a2 0 13619046.793609649
Gr5_im_1_2 0 s1 x5_im_a2 0 -14344978.250363545
Gd1_3 0 s1 p3 0 -5.836933490497506e-08
Fd1_3 0 s1 V3 -2.9184667452487533e-06
Gr1_1_3 0 s1 x1_a3 0 309258.48795278417
Gr2_re_1_3 0 s1 x2_re_a3 0 40389.80697437337
Gr2_im_1_3 0 s1 x2_im_a3 0 -9805.686877302569
Gr3_re_1_3 0 s1 x3_re_a3 0 13202.018437994238
Gr3_im_1_3 0 s1 x3_im_a3 0 14311.498049037533
Gr4_re_1_3 0 s1 x4_re_a3 0 -19188.99870545506
Gr4_im_1_3 0 s1 x4_im_a3 0 -4335.47604688026
Gr5_re_1_3 0 s1 x5_re_a3 0 2148.578909657424
Gr5_im_1_3 0 s1 x5_im_a3 0 -12750.594658657104
Gd1_4 0 s1 p4 0 6.56396597456395e-08
Fd1_4 0 s1 V4 3.2819829872819746e-06
Gr1_1_4 0 s1 x1_a4 0 -436924.5130130467
Gr2_re_1_4 0 s1 x2_re_a4 0 -34122.139869464
Gr2_im_1_4 0 s1 x2_im_a4 0 -30322.87201990186
Gr3_re_1_4 0 s1 x3_re_a4 0 4033.5695522537367
Gr3_im_1_4 0 s1 x3_im_a4 0 24968.003875928433
Gr4_re_1_4 0 s1 x4_re_a4 0 -22481.23196533569
Gr4_im_1_4 0 s1 x4_im_a4 0 -20633.76210574923
Gr5_re_1_4 0 s1 x5_re_a4 0 18438.85312689036
Gr5_im_1_4 0 s1 x5_im_a4 0 -18747.010433425665
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.728701481521714e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 6.09140015772631e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 271560290280.3457
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -271560290280.3457
Rp2_im_im_a1 0 x2_im_a1 6.09140015772631e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.5060229215578724e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 139355939124.77905
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -139355939124.77905
Rp3_im_im_a1 0 x3_im_a1 1.5060229215578724e-09
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.2374006007541582e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 111943461885.64008
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -111943461885.64008
Rp4_im_im_a1 0 x4_im_a1 1.2374006007541582e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.3348886360435017e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 125674380846.55492
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -125674380846.55492
Rp5_im_im_a1 0 x5_im_a1 1.3348886360435017e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.00010963310500692549
Fd2_1 0 s2 V1 0.005481655250346274
Gr1_2_1 0 s2 x1_a1 0 -722984131.9569511
Gr2_re_2_1 0 s2 x2_re_a1 0 -5627992.826379491
Gr2_im_2_1 0 s2 x2_im_a1 0 -20813595.9284223
Gr3_re_2_1 0 s2 x3_re_a1 0 -4561416.647968226
Gr3_im_2_1 0 s2 x3_im_a1 0 -17247925.63245433
Gr4_re_2_1 0 s2 x4_re_a1 0 15994518.795222364
Gr4_im_2_1 0 s2 x4_im_a1 0 -4184992.952554501
Gr5_re_2_1 0 s2 x5_re_a1 0 13614409.11678289
Gr5_im_2_1 0 s2 x5_im_a1 0 -14343131.751974728
Gd2_2 0 s2 p2 0 -0.005095972763752184
Fd2_2 0 s2 V2 -0.2547986381876092
Gr1_2_2 0 s2 x1_a2 0 21917136112.274544
Gr2_re_2_2 0 s2 x2_re_a2 0 2504711071.7059965
Gr2_im_2_2 0 s2 x2_im_a2 0 932520937.5827544
Gr3_re_2_2 0 s2 x3_re_a2 0 47342609.57239272
Gr3_im_2_2 0 s2 x3_im_a2 0 -59528962.125788875
Gr4_re_2_2 0 s2 x4_re_a2 0 94943920.05817573
Gr4_im_2_2 0 s2 x4_im_a2 0 62402046.208758466
Gr5_re_2_2 0 s2 x5_re_a2 0 93853276.33080755
Gr5_im_2_2 0 s2 x5_im_a2 0 -11003157.81851397
Gd2_3 0 s2 p3 0 -4.865278612879506e-08
Fd2_3 0 s2 V3 -2.432639306439753e-06
Gr1_2_3 0 s2 x1_a3 0 28066.09122509481
Gr2_re_2_3 0 s2 x2_re_a3 0 43866.16262789672
Gr2_im_2_3 0 s2 x2_im_a3 0 -28983.174351092042
Gr3_re_2_3 0 s2 x3_re_a3 0 20297.086894193115
Gr3_im_2_3 0 s2 x3_im_a3 0 15981.371908782548
Gr4_re_2_3 0 s2 x4_re_a3 0 -34894.3220992451
Gr4_im_2_3 0 s2 x4_im_a3 0 -13508.465698217566
Gr5_re_2_3 0 s2 x5_re_a3 0 10569.456637429095
Gr5_im_2_3 0 s2 x5_im_a3 0 -30185.52391161617
Gd2_4 0 s2 p4 0 6.370480390971431e-08
Fd2_4 0 s2 V4 3.1852401954857156e-06
Gr1_2_4 0 s2 x1_a4 0 -331699.0469555912
Gr2_re_2_4 0 s2 x2_re_a4 0 -2596.4992803463174
Gr2_im_2_4 0 s2 x2_im_a4 0 -6809.830925898368
Gr3_re_2_4 0 s2 x3_re_a4 0 13992.77743459491
Gr3_im_2_4 0 s2 x3_im_a4 0 7343.225542661965
Gr4_re_2_4 0 s2 x4_re_a4 0 -17556.302600563286
Gr4_im_2_4 0 s2 x4_im_a4 0 -7686.854760617356
Gr5_re_2_4 0 s2 x5_re_a4 0 3731.9155522732303
Gr5_im_2_4 0 s2 x5_im_a4 0 -15462.892103255246
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.728701481521714e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 6.09140015772631e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 271560290280.3457
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -271560290280.3457
Rp2_im_im_a2 0 x2_im_a2 6.09140015772631e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.5060229215578724e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 139355939124.77905
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -139355939124.77905
Rp3_im_im_a2 0 x3_im_a2 1.5060229215578724e-09
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.2374006007541582e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 111943461885.64008
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -111943461885.64008
Rp4_im_im_a2 0 x4_im_a2 1.2374006007541582e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.3348886360435017e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 125674380846.55492
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -125674380846.55492
Rp5_im_im_a2 0 x5_im_a2 1.3348886360435017e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 2.003174814729282e-09
Fd3_1 0 s3 V1 1.001587407364641e-07
Gr1_3_1 0 s3 x1_a1 0 -19767.163529374786
Gr2_re_3_1 0 s3 x2_re_a1 0 -17198.48714786385
Gr2_im_3_1 0 s3 x2_im_a1 0 -2563.319364768904
Gr3_re_3_1 0 s3 x3_re_a1 0 12874.391070938424
Gr3_im_3_1 0 s3 x3_im_a1 0 13379.533192932047
Gr4_re_3_1 0 s3 x4_re_a1 0 -19734.82461842375
Gr4_im_3_1 0 s3 x4_im_a1 0 -5506.018519949543
Gr5_re_3_1 0 s3 x5_re_a1 0 3647.4487424041113
Gr5_im_3_1 0 s3 x5_im_a1 0 -13022.113897424748
Gd3_2 0 s3 p2 0 9.3735405953017e-08
Fd3_2 0 s3 V2 4.686770297650851e-06
Gr1_3_2 0 s3 x1_a2 0 -469199.0424096903
Gr2_re_3_2 0 s3 x2_re_a2 0 -43267.381725846964
Gr2_im_3_2 0 s3 x2_im_a2 0 -6927.940150612128
Gr3_re_3_2 0 s3 x3_re_a2 0 20670.39042169363
Gr3_im_3_2 0 s3 x3_im_a2 0 16823.834002839296
Gr4_re_3_2 0 s3 x4_re_a2 0 -33749.80782671131
Gr4_im_3_2 0 s3 x4_im_a2 0 -14618.693745653305
Gr5_re_3_2 0 s3 x5_re_a2 0 11095.637886056955
Gr5_im_3_2 0 s3 x5_im_a2 0 -30722.291218407794
Gd3_3 0 s3 p3 0 -0.005460319363180161
Fd3_3 0 s3 V3 -0.2730159681590081
Gr1_3_3 0 s3 x1_a3 0 23952426951.473614
Gr2_re_3_3 0 s3 x2_re_a3 0 2569443345.8577385
Gr2_im_3_3 0 s3 x2_im_a3 0 801751403.7442603
Gr3_re_3_3 0 s3 x3_re_a3 0 80368935.74092992
Gr3_im_3_3 0 s3 x3_im_a3 0 15309176.23326187
Gr4_re_3_3 0 s3 x4_re_a3 0 37454487.12004007
Gr4_im_3_3 0 s3 x4_im_a3 0 96568296.81616884
Gr5_re_3_3 0 s3 x5_re_a3 0 78231583.19642763
Gr5_im_3_3 0 s3 x5_im_a3 0 58085661.958371066
Gd3_4 0 s3 p4 0 -2.6174025336573145e-05
Fd3_4 0 s3 V4 -0.0013087012668286573
Gr1_3_4 0 s3 x1_a4 0 -101655425.14595723
Gr2_re_3_4 0 s3 x2_re_a4 0 15008096.437495166
Gr2_im_3_4 0 s3 x2_im_a4 0 4261450.560740394
Gr3_re_3_4 0 s3 x3_re_a4 0 15784697.865928061
Gr3_im_3_4 0 s3 x3_im_a4 0 -8541340.715033626
Gr4_re_3_4 0 s3 x4_re_a4 0 15276677.568993326
Gr4_im_3_4 0 s3 x4_im_a4 0 10662156.114641342
Gr5_re_3_4 0 s3 x5_re_a4 0 21201197.41104327
Gr5_im_3_4 0 s3 x5_im_a4 0 4823137.512048236
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 3.728701481521714e-12
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 6.09140015772631e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 271560290280.3457
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -271560290280.3457
Rp2_im_im_a3 0 x2_im_a3 6.09140015772631e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 1.5060229215578724e-09
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 139355939124.77905
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -139355939124.77905
Rp3_im_im_a3 0 x3_im_a3 1.5060229215578724e-09
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 1.2374006007541582e-09
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 111943461885.64008
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -111943461885.64008
Rp4_im_im_a3 0 x4_im_a3 1.2374006007541582e-09
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 1.3348886360435017e-09
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 125674380846.55492
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -125674380846.55492
Rp5_im_im_a3 0 x5_im_a3 1.3348886360435017e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -2.4776504392612243e-08
Fd4_1 0 s4 V1 -1.2388252196306122e-06
Gr1_4_1 0 s4 x1_a1 0 31988.872563071753
Gr2_re_4_1 0 s4 x2_re_a1 0 24013.57118476854
Gr2_im_4_1 0 s4 x2_im_a1 0 23957.60206557165
Gr3_re_4_1 0 s4 x3_re_a1 0 5197.098791239008
Gr3_im_4_1 0 s4 x3_im_a1 0 24450.683915775135
Gr4_re_4_1 0 s4 x4_re_a1 0 -23648.265786739084
Gr4_im_4_1 0 s4 x4_im_a1 0 -21339.119616065156
Gr5_re_4_1 0 s4 x5_re_a1 0 18534.671758905395
Gr5_im_4_1 0 s4 x5_im_a1 0 -17831.465862985966
Gd4_2 0 s4 p2 0 -4.686715021196684e-08
Fd4_2 0 s4 V2 -2.343357510598342e-06
Gr1_4_2 0 s4 x1_a2 0 -32234.49072589657
Gr2_re_4_2 0 s4 x2_re_a2 0 14325.241262663545
Gr2_im_4_2 0 s4 x2_im_a2 0 -18749.62465946366
Gr3_re_4_2 0 s4 x3_re_a2 0 13790.331975617213
Gr3_im_4_2 0 s4 x3_im_a2 0 7554.549120945554
Gr4_re_4_2 0 s4 x4_re_a2 0 -17931.38764891832
Gr4_im_4_2 0 s4 x4_im_a2 0 -7620.133544785017
Gr5_re_4_2 0 s4 x5_re_a2 0 4595.5912105794605
Gr5_im_4_2 0 s4 x5_im_a2 0 -14415.73430295568
Gd4_3 0 s4 p3 0 -2.6166123569319317e-05
Fd4_3 0 s4 V3 -0.001308306178465966
Gr1_4_3 0 s4 x1_a3 0 -101787990.16909775
Gr2_re_4_3 0 s4 x2_re_a3 0 14998122.439270424
Gr2_im_4_3 0 s4 x2_im_a3 0 4266977.984725272
Gr3_re_4_3 0 s4 x3_re_a3 0 15790326.957629897
Gr3_im_4_3 0 s4 x3_im_a3 0 -8545437.27535129
Gr4_re_4_3 0 s4 x4_re_a3 0 15280687.20066272
Gr4_im_4_3 0 s4 x4_im_a3 0 10663568.824182592
Gr5_re_4_3 0 s4 x5_re_a3 0 21213467.049627624
Gr5_im_4_3 0 s4 x5_im_a3 0 4827167.28672769
Gd4_4 0 s4 p4 0 -0.004875667260072213
Fd4_4 0 s4 V4 -0.24378336300361067
Gr1_4_4 0 s4 x1_a4 0 21154852266.94956
Gr2_re_4_4 0 s4 x2_re_a4 0 2391755601.996898
Gr2_im_4_4 0 s4 x2_im_a4 0 768320079.9452206
Gr3_re_4_4 0 s4 x3_re_a4 0 72358130.34320138
Gr3_im_4_4 0 s4 x3_im_a4 0 12788527.96947871
Gr4_re_4_4 0 s4 x4_re_a4 0 43310322.50068514
Gr4_im_4_4 0 s4 x4_im_a4 0 88344293.09604605
Gr5_re_4_4 0 s4 x5_re_a4 0 74491788.46178548
Gr5_im_4_4 0 s4 x5_im_a4 0 44183081.04073361
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 3.728701481521714e-12
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 6.09140015772631e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 271560290280.3457
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -271560290280.3457
Rp2_im_im_a4 0 x2_im_a4 6.09140015772631e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 1.5060229215578724e-09
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 139355939124.77905
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -139355939124.77905
Rp3_im_im_a4 0 x3_im_a4 1.5060229215578724e-09
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 1.2374006007541582e-09
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 111943461885.64008
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -111943461885.64008
Rp4_im_im_a4 0 x4_im_a4 1.2374006007541582e-09
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 1.3348886360435017e-09
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 125674380846.55492
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -125674380846.55492
Rp5_im_im_a4 0 x5_im_a4 1.3348886360435017e-09
.ENDS s_equivalent
